US08563505B2
Magnesium (62 mg, 2.55 mmol) was stirred in a round bottom flask under N2 for 15 min. to cause scratching of the surface of the magnesium turnings. 10 mL of THF was added to the magnesium turnings and stirred for an additional 30 min. 4′-bromo-N,N-dimethyl-2-vinylbiphenyl-4-amine (735 mg, 2.432 mmol) in THF (20 mL), was added dropwise at reflux with vigorous stirring. The Grignard solution was added to a solution of (S)-2-methyl 1-(2-(trimethylsilyl)ethyl) 4-oxopyrrolidine-1,2-dicarboxylate (699 mg, 2.432 mmol) in DCM (20 mL) at r.t. and stirred for 1 hr and then quenched with sat. NH4Cl solution. The aqueous layer was extracted with DCM and the combined organics were dried, filtered and evaporated to give crude material. The crude material was purified by flash chromatography on the Biotage (10-40% EtOAc:Hex) to give (2S,4R)-2-methyl 1-(2-(trimethylsilyl)ethyl) 4-(4′-(dimethylamino)-2′-vinylbiphenyl-4-yl)-4-hydroxypyrrolidine-1,2-dicarboxylate (330 mg, 0.646 mmol, 27% yield) as a yellow foam. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 0.04 (s, 9H) 0.99-1.11 (m, 2H) 2.34-2.52 (m, 1H) 2.62-2.81 (m, 1H) 3.00-3.07 (m, 6H) 3.68-3.81 (m, 1H) 3.82-3.89 (m, 3H) 4.17-4.34 (m, 3H) 4.49-4.68 (m, 1H) 5.19 (dd, J=11.04, 1.25 Hz, 1H) 5.70 (dd, J=17.57, 1.25 Hz, 1H) 6.67-6.80 (m, 2H) 6.96 (d, J=2.26 Hz, 1H) 7.16-7.22 (m, 1H) 7.34 (m, 2H) 7.49 (m, J=8.28 Hz, 2H). LCMS: rt=1.71 min. [M+H]+=511; Phenomenex-Luna C-18 (5μ) (3.0×50 mm); Solvent A=10% acetonitrile—90% water—0.1% TFA, Solvent B=90% acetonitrile—10% water—0.1% TFA; gradient 0% to 100% solvent B over 2 min. and then hold for 1 min.; 4 mL/min; inj. vol.=5 uL; wavelength=220.

reactant | Magnesium | 2.55 mmol, 62 mg | [Mg] | Mg
reactant | 4′-bromo-N,N-dimethyl-2-vinylbiphenyl-4-amine | 2.432 mmol, 735 mg | BrC1=CC=C(C=C1)C1=C(C=C(C=C1)N(C)C)C=C | C16H16BrN
reactant | (S)-2-methyl 1-(2-(trimethylsilyl)ethyl) 4-oxopyrrolidine-1,2-dicarboxylate | 2.432 mmol, 699 mg | O=C1C[C@H](N(C1)C(=O)OCC[Si](C)(C)C)C(=O)OC | C12H21NO5Si
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (2S,4R)-2-methyl 1-(2-(trimethylsilyl)ethyl) 4-(4′-(dimethylamino)-2′-vinylbiphenyl-4-yl)-4-hydroxypyrrolidine-1,2-dicarboxylate | 0.646 mmol, 330 mg, 27% yield | CN(C1=CC(=C(C=C1)C1=CC=C(C=C1)[C@@]1(C[C@H](N(C1)C(=O)OCC[Si](C)(C)C)C(=O)OC)O)C=C)C | C28H38N2O5Si
